data/oMe_Silver.jsonl
{"reaction_id": "NR-137_1-C(F)(F)F_2-CC_3-C(F)(F)F_4-CCCC(C)C","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(C(F)(F)F)C(=O)C(CC)","O=CC(C(F)(F)F)"],"products_smiles": ["C1(C(F)(F)F)OC(CCCC(C)C)C(CC)C(=O)C1(C(F)(F)F)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC)C(=O)C(=C(C(F)(F)F))(C(F)(F)F)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(F)(F)F)=C(C(F)(F)F)C(=O)C(CC)C(O)(CCCC(C)C)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)=C(C(F)(F)F)C(=[OH+])C(CC)C(O)(CCCC(C)C)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(F)(F)F)C(C(F)(F)F)=C(O)C(CC)C(CCCC(C)C)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(F)(F)F)C(C(F)(F)F)=C(O)C(CC)C(CCCC(C)C)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(F)(F)F)OC(CCCC(C)C)C(CC)C(=O)C1(C(F)(F)F)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
{"reaction_id": "NR-116_1-CCCC(C)C_2-CC_3-CC_4-CC","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(CCCC(C)C)C(CC)C(=O)OCC","N#[N+]CC"],"products_smiles": ["C(=O)(OCC)C(=N[NH]CC)CC"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OCC)CC)CCCC(C)C","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OCC)(C(=O)CCCC(C)C)(N=NCC)CC","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OCC)(C(O)([O-])(CCCC(C)C))(N=NCC)CC","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OCC)C(=N[N-]CC)CC","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OCC)C(=N[NH]CC)CC","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
